US07176242B2
A solution of 7-bromo-1-chloroisoquinoline (2.50 g, 10.3 mmol) and activated zinc (1.40 g, 21.65 mmol) in acetic acid (20 mL) was heated at reflux for 2 h. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to provide 7-bromoisoquinoline (1.86 g): ESI MS m/z 208 [M+H]+.

reactant | 7-bromo-1-chloroisoquinoline | 10.3 mmol, 2.50 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 21.65 mmol, 1.40 g | [Zn] | Zn
product | 7-bromoisoquinoline | 1.86 g | BrC1=CC=C2C=CN=CC2=C1 | C9H6BrN
